*** Superconducting Nanowire 1 ***

* supply with an A.C. source
* study on the superconducting nanowire communication with
* moire synapse transistor integration

.subckt nanowire g1 g2 n1 n2 n3 n4
+Rsc=1f
+Rn=1500
+Rct=10u

* superconducting property
R1 g1 g2 1
V1 n1 n2 0
B1 n3 n4 V=IF((abs(I(R1))<I(V1)), I(R1)*(Rsc+Rct), I(R1)*(Rn+Rct))

.ends superconductor